US07615562B2
Step B: (4-Benzo[b]thiophen-2-yl-pyrimidin-2-yl)-(2,2,6-trimethyl-piperidin-4-yl)-amine
The title compound was prepared analogous to Method A, starting from 2,4-dichloro-pyrimidine, benzo[b]thiophen-2-boronic acid and 2,2,6-trimethyl-piperidin-4-ylamine.

reactant | 2,4-dichloro-pyrimidine | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | benzo[b]thiophen-2-boronic acid | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
reactant | 2,2,6-trimethyl-piperidin-4-ylamine | CC1(NC(CC(C1)N)C)C | C8H18N2
product | (4-Benzo[b]thiophen-2-yl-pyrimidin-2-yl)-(2,2,6-trimethyl-piperidin-4-yl)-amine | S1C2=C(C=C1C1=NC(=NC=C1)NC1CC(NC(C1)C)(C)C)C=CC=C2 | C20H24N4S
